### PR TITLE
[Merged by Bors] - feat(Data/Part): add Part.bind_eq_some_iff

### PR DESCRIPTION
**Pull request by jessealama**
Add `Part.bind_eq_some_iff`, the `Part` analogue of `Option.bind_eq_some_iff`. Noticed this small gap while working on some equivalence proofs with partial functions.

### CODE REVIEW

**Comment by jessealama** [comment]
> What are you using `Part` for? I thought the idea was that we used `Option` instead.

I'm doing some work with partial functions for the Church-Turing thesis (e.g., [partrec_iff_forall_turingReducible](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Computability/TuringDegree.html#partrec_iff_forall_turingReducible)), which works with PFun and Part. I know that `Option` is generally used but I'm working on some already existing infrastructure.

File: Mathlib/Data/Part.lean [hunk 1]
```diff
@@ -431,6 +431,12 @@ theorem mem_bind_iff {f : Part α} {g : α → Part β} {b} : b ∈ f.bind g ↔
     | _, ⟨⟨_, _⟩, rfl⟩ => ⟨_, ⟨_, rfl⟩, ⟨_, rfl⟩⟩,
     fun ⟨_, h₁, h₂⟩ => mem_bind h₁ h₂⟩
 
+/-- `Part.bind` produces `some b` iff the input is `some a` and the continuation maps `a` to
+`some b`. This is the `Part` analogue of `Option.bind_eq_some_iff`. -/
+theorem bind_eq_some_iff {f : Part α} {g : α → Part β} {b : β} :
+    f.bind g = some b ↔ ∃ a, f = some a ∧ g a = some b := by
+  simp only [eq_some_iff, mem_bind_iff]
```
Comment (joneugster) [inline Mathlib/Data/Part.lean]:
```suggestion
theorem bind_eq_some_iff {b : β} {x : Part α} {f : α → Part β} :
    x.bind f = some b ↔ ∃ a, x = some a ∧ f a = some b := by
  simp only [eq_some_iff, mem_bind_iff]
```
I suggest to reorder arguments and rename them to match `Option.bind_eq_some_iff` as close as possible.

**Review by joneugster — APPROVED** [review]
Thanks for the PR!

Aligning API is always reasonable, and the closer the better.

I see it this way: if `Part` had completely identical API to `Option` that would make it easier to switch from `Part` to `Option` in places where this makes sense.

**Comment by jessealama** [comment]
> Thanks for the PR!
> 
> Aligning API is always reasonable, and the closer the better.
> 
> I see it this way: if `Part` had completely identical API to `Option` that would make it easier to switch from `Part` to `Option` in places where this makes sense.

Agree! Thanks. I've merged in your suggestion.

**Comment by jessealama** [comment]
-awaiting-author

**Review by joneugster — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
